US09079919B2
(R)-5′,5′-Difluoro-6-(pyrimidin-5-yl)-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazin]-2′-amine
In a manner analogous to that described in Example 1, the cross-coupling reaction of (R)-6-bromo-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazin]-2′-amine (intermediate A6.5) with pyrimidin-5-ylboronic acid in a 3:1-mixture of 1,2-dimethoxyethane and water as the solvent yielded the title compound (19% yield) as an off-white solid. MS (ISP): m/z=317.0 [M+H]+.

reactant | (R)-6-bromo-5′,5′-difluoro-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazin]-2′-amine | BrC1=CC=C2CC[C@@]3(N=C(OCC3(F)F)N)C2=C1 | C12H11BrF2N2O
reactant | pyrimidin-5-ylboronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | water | O | H2O
product | (R)-5′,5′-Difluoro-6-(pyrimidin-5-yl)-2,3,5′,6′-tetrahydrospiro[indene-1,4′-[1,3]oxazin]-2′-amine | 19% yield | FC1([C@@]2(N=C(OC1)N)CCC1=CC=C(C=C12)C=1C=NC=NC1)F | C16H14F2N4O
